US08623889B2
Step 2: 7-(4-methylpyridin-3-yl)-2,6-naphthyridin-3-amine
A suspension of tert-butyl 7-(4-methylpyridin-3-yl)-2,6-naphthyridin-3-ylcarbamate (190 mg, 0.565 mmol) in DCE (3 mL) was treated with trifluoroacetic acid (0.437 mL, 5.65 mmol) and the mixture was stirred at 40° C. for 3 hours. The reaction mixture was concentrated in vacuo and then diluted with ethyl acetate (50 mL) and washed with saturated aqueous sodium bicarbonate solution (10 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford the title compound as a bright yellow solid (133 mg, 99%), which was used without further purification.

reactant | tert-butyl 7-(4-methylpyridin-3-yl)-2,6-naphthyridin-3-ylcarbamate | 0.565 mmol, 190 mg | CC1=C(C=NC=C1)C1=NC=C2C=C(N=CC2=C1)NC(OC(C)(C)C)=O | C19H20N4O2
reactant | trifluoroacetic acid | 5.65 mmol, 0.437 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
product | 7-(4-methylpyridin-3-yl)-2,6-naphthyridin-3-amine | 133 mg, 99% | CC1=C(C=NC=C1)C1=NC=C2C=C(N=CC2=C1)N | C14H12N4
